US07384934B2
(S)-8-Chloro-2-isopropyl-11-[3-(2-methoxy-ethyl)-4-methyl-piperazin 1-yl]-5H-dibenzo[b,e][1,4]diazepine succinate
Dissolve (S)-8-chloro-2-isopropyl-11-[3-(2-methoxy-ethyl) piperazin-1-yl]-5H-dibenzo[b,e][1,4]diazepine succinate (0.089 g, 0.22 mmol) in dichloromethane (12 ml). Add sodium triacetoxyborohydride (0.137 g, 0.65 mmol) and formaldehyde (0.013 g, 0.43 mmol, 0.035 g of a 37% aqueous solution) and stir the mixture for two hours at ambient temperature. Dilute the mixture with 50 mL of saturated aqueous sodium chloride and extract three times with dichloromethane. Combine the organic layers, dryover sodium sulfate and remove the solvent under reduced pressure. Purification via flash chromatography, eluting with a mixture of 75% hexanes and 25% chloroform with 1% total volume isopropylamine, gives the free base of the title compound (0.027 g, 0.06 mmol, 29% yield) as a yellow amorphous solid. Convert to the succinate salt as described previously: Mass Spectrum (m/e): 427(M+1); Exact Mass Spec: Calc. 427.2265; Found 427.2279.

reactant | (S)-8-chloro-2-isopropyl-11-[3-(2-methoxy-ethyl) piperazin-1-yl]-5H-dibenzo[b,e][1,4]diazepine succinate | 0.22 mmol, 0.089 g | ClC=1C=CC2=C(N=C(C3=C(N2)C=CC(=C3[C@H](CC(=O)[O-])C(=O)[O-])C(C)C)N3CC(NCC3)CCOC)C1
reactant | sodium triacetoxyborohydride | 0.65 mmol, 0.137 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | formaldehyde | C=O | CH2O
solvent | dichloromethane | 12 ml | ClCCl | CH2Cl2
solvent | sodium chloride | 50 mL | [Cl-].[Na+]
product | (S)-8-Chloro-2-isopropyl-11-[3-(2-methoxy-ethyl)-4-methyl-piperazin 1-yl]-5H-dibenzo[b,e][1,4]diazepine succinate | 0.06 mmol, 0.027 g, 29% yield | C(CCC(=O)O)(=O)O.ClC=1C=CC2=C(N=C(C3=C(N2)C=CC(=C3)C(C)C)N3C[C@@H](N(CC3)C)CCOC)C1 | InChI=1S/C24H31ClN4O.C4H6O4/c1-16(2)17-5-7-21-20(13-17)24(27-23-14-18(25)6-8-22(23)26-21)29-11-10-28(3)19(15-29)9-12-30-4;5-3(6)1-2-4(7)8/h5-8,13-14,16,19,26H,9-12,15H2,1-4H3;1-2H2,(H,5,6)(H,7,8)/t19-;/m0./s1
